US09108944B2
A mixture of 2,6-difluoroaniline (0.5 g, 3.9 mmol), TMSCN (0.72 mL, 5.8 mmol), and cyclobutanone (0.43 mL, 5.8 mmol) was heated to 90° C. overnight. The mixture was poured in water and the aqueous layer was extracted with EtOAc (3×). The organics were combined, washed with brine. (2×), dried over sodium sulfate, and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with 0 to 20% EtOAc/hexanes to afford 0.7 g of 1-((2,6-difluorophenyl)amino)cyclobutanecarbonitrile as a colorless oil. 1H NMR (300 MHz, DMSO-d6) δ 7.07-7.01 (m, 2H), 6.91-6.81 (m, 1H), 6.15 (s, 1H), 2.65-2.56 (m, 2H), 2.52-2.42 (m, 2H), 2.01-1.91 (m, 2H).

reactant | 2,6-difluoroaniline | 3.9 mmol, 0.5 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | TMSCN | 5.8 mmol, 0.72 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | cyclobutanone | 5.8 mmol, 0.43 mL | C1(CCC1)=O | C4H6O
solvent | water | O | H2O
product | 1-((2,6-difluorophenyl)amino)cyclobutanecarbonitrile | 0.7 g | FC1=C(C(=CC=C1)F)NC1(CCC1)C#N | C11H10F2N2
